US07981903B2
A slurry of 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride (400 mg, 0.835 mmol) and 1-[(dimethylamino)acetyl]-6-methyl-1,2,3,4-tetrahydro-7-quinolinamine (206 mg, 0.835 mmol) in 2,2,2-trifluoroethanol (50 mL) was stirred at rt for 4 days. The resulting green solution was diluted with THF (50 mL) and a 27% aqueous NH4OH solution (100 mL). The clear orange reaction mixture was stirred at rt for 5 h. EtOAc (200 mL) was added and the mixture was washed with a saturated NaCl solution (3×100 mL). The organic layer was dried (Na2SO4), concentrated onto Celite and purified by silica gel chromatography using 1-10% MeOH (containing 0.2% NH3)/CH2Cl2 to obtain 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide as a white solid (416 mg, 74%). 1H NMR (400 MHz, DMSO-d6) δ ppm 1.85-2.01 (m, 2H), 2.13 (br s, 6H), 2.16 (s, 3H), 2.32 (s, 3H), 2.76 (t, J=6.41 Hz, 2H), 3.18 (br s, 2H), 3.77 (t, J=5.77 Hz, 2H), 6.49 (d, J=4.03 Hz, 1H), 6.68 (br s, 1H), 6.88-7.01 (m, 1H), 7.11 (s, 1H), 7.15-7.38 (m, 3H), 7.70 (br s, 1H), 7.80 (d, J=7.51 Hz, 2H), 7.92 (br s, 1H), 8.02 (br s, 1H), 8.10 (d, J=8.06 Hz, 1k), 8.58 (s, 1H), 10.49 (s, 1H); ESIMS (M+H)+=671.23.

reactant | 5-chloro-8-fluoro-3-[(4-methylphenyl)sulfonyl]pyrrolo[2′,3′:4,5]pyrimido[6,1-b]quinazolin-7(3H)-one hydrogen chloride | 0.835 mmol, 400 mg | Cl.ClC1=NC2=C(C3=NC4=CC=CC(=C4C(N31)=O)F)C=CN2S(=O)(=O)C2=CC=C(C=C2)C
reactant | 1-[(dimethylamino)acetyl]-6-methyl-1,2,3,4-tetrahydro-7-quinolinamine | 0.835 mmol, 206 mg | CN(C)CC(=O)N1CCCC2=CC(=C(C=C12)N)C | C14H21N3O
reactant | NH4OH | 100 mL | [NH4+].[OH-]
reactant | EtOAc | 200 mL | CCOC(=O)C | C4H8O2
solvent | 2,2,2-trifluoroethanol | 50 mL | FC(CO)(F)F | C2H3F3O
solvent | THF | 50 mL | C1CCOC1 | C4H8O
product | 2-({2-{[1-(N,N-dimethylglycyl)-6-methyl-1,2,3,4-tetrahydro-7-quinolinyl]amino}-7-[(4-methylphenyl)sulfonyl]-7H-pyrrolo[2,3-d]pyrimidin-4-yl}amino)-6-fluorobenzamide | 416 mg, 74% | CN(CC(=O)N1CCCC2=CC(=C(C=C12)NC=1N=C(C2=C(N1)N(C=C2)S(=O)(=O)C2=CC=C(C=C2)C)NC2=C(C(=O)N)C(=CC=C2)F)C)C | C34H35FN8O4S
